// "mismatch models for spectre"
// wrapper circuits to enable MC simulation of transistor mismatch



// Pelgrom constants ( change these random values with real technology data )
// ( these values express the difference in Vt / Ion between two transistors )
parameters AdVt_n = 3    // mV*um
parameters AdVt_p = 2.5    // mV*um

parameters AdI_I0_n = 2     // %*um
parameters AdI_I0_p = 1.2   // %*um

// the standard deviation to be used
// naked distribution is for a 1u*1u transistor
parameters sigma_LVT_Vt_n   = (( AdVt_n   /1000)/sqrt(2))*sqrt(1u*1u) 
parameters sigma_LVT_Vt_p   = (( AdVt_p   /1000)/sqrt(2))*sqrt(1u*1u)
parameters sigma_LVT_I_I0_n = (( AdI_I0_n /100 )/sqrt(2))*sqrt(1u*1u)
parameters sigma_LVT_I_I0_p = (( AdI_I0_p /100 )/sqrt(2))*sqrt(1u*1u)

parameters sigma_LVT_Vt_n_corr   = (( AdVt_n   /1000)/sqrt(2))*sqrt(1u*1u) 
parameters sigma_LVT_Vt_p_corr   = (( AdVt_p   /1000)/sqrt(2))*sqrt(1u*1u)
parameters sigma_LVT_I_I0_n_corr = (( AdI_I0_n /100 )/sqrt(2))*sqrt(1u*1u)
parameters sigma_LVT_I_I0_p_corr = (( AdI_I0_p /100 )/sqrt(2))*sqrt(1u*1u)

// these parameters get a new randomly selected value for each instance,
// independently selected from the appropriate distribution 
parameters delta_1um_LVT_Vt_n=0
parameters delta_1um_LVT_Vt_p=0
parameters delta_1um_LVT_I_I0_n=0
parameters delta_1um_LVT_I_I0_p=0

parameters delta_1um_LVT_Vt_n_corr=0
parameters delta_1um_LVT_Vt_p_corr=0
parameters delta_1um_LVT_I_I0_n_corr=0
parameters delta_1um_LVT_I_I0_p_corr=0


statistics {
  mismatch{
    vary delta_1um_LVT_Vt_n   dist=gauss std=sigma_LVT_Vt_n
    vary delta_1um_LVT_Vt_p   dist=gauss std=sigma_LVT_Vt_p
    vary delta_1um_LVT_I_I0_n dist=gauss std=sigma_LVT_I_I0_n
    vary delta_1um_LVT_I_I0_p dist=gauss std=sigma_LVT_I_I0_p

    vary delta_1um_LVT_Vt_n_corr   dist=gauss std=sigma_LVT_Vt_n_corr
    vary delta_1um_LVT_Vt_p_corr   dist=gauss std=sigma_LVT_Vt_p_corr
    vary delta_1um_LVT_I_I0_n_corr dist=gauss std=sigma_LVT_I_I0_n_corr
    vary delta_1um_LVT_I_I0_p_corr dist=gauss std=sigma_LVT_I_I0_p_corr
  }
}

subckt mc_nmos_lvt ( d g s b ) 
parameters
+ mismatchVt=1 * enableVtMismatch
+ mismatchBeta=1 * enableBMismatch
+ shiftVt=0
+ shiftBeta=0
+ w=100e-9
+ l=45e-9
+ beta_factor = ( delta_1um_LVT_I_I0_n / sqrt(w*l) ) * mismatchBeta + shiftBeta
+ vt_factor   = ( delta_1um_LVT_Vt_n   / sqrt(w*l) ) * mismatchVt + shiftVt

v_model_Vth_mismatch ( g rg ) vsource type=dc dc=vt_factor
i_model_beta_mismatch ( d s ) cccs probe=probe1 gain=beta_factor

mnmos ( d rg rs b ) nmos l=l w=w
probe1 ( rs s ) iprobe

ends mc_nmos_lvt


subckt mc_pmos_lvt ( d g s b ) 
parameters
+ mismatchVt=1 * enableVtMismatch
+ mismatchBeta=1 * enableBMismatch
+ shiftVt=0
+ shiftBeta=0
+ w=100e-9
+ l=45e-9
+ beta_factor = ( delta_1um_LVT_I_I0_p /sqrt(w*l) ) * mismatchBeta + shiftBeta
+ vt_factor   = ( delta_1um_LVT_Vt_p / sqrt(w*l) ) * mismatchVt + shiftVt

v_model_Vth_mismatch ( g rg ) vsource type=dc dc=vt_factor
i_model_beta_mismatch ( d s ) cccs probe=probe1 gain=beta_factor

mpmos ( d rg rs b ) pmos l=l w=w
probe1 ( rs s ) iprobe

ends mc_pmos_lvt


simulator lang=spice

.model  nmos  nmos  level = 54

*+delvt0 = 0.3

+version = 4.0             binunit = 1               paramchk= 1               mobmod  = 0             
+capmod  = 2               igcmod  = 1               igbmod  = 1               geomod  = 1             
+diomod  = 1               rdsmod  = 0               rbodymod= 1               rgatemod= 1             
+permod  = 1               acnqsmod= 0               trnqsmod= 0             

+tnom    = 27              toxe    = 1.8e-009        toxp    = 1.5e-009        toxm    = 1.8e-009      
+dtox    = 3e-010          epsrox  = 3.9             wint    = 5e-009          lint    = 0             
+ll      = 0               wl      = 0               lln     = 1               wln     = 1             
+lw      = 0               ww      = 0               lwn     = 1               wwn     = 1             
+lwl     = 0               wwl     = 0               xpart   = 0               toxref  = 1.8e-009      

+vth0    = 0.62261         k1      = 0.4             k2      = 0               k3      = 0             
+k3b     = 0               w0      = 2.5e-006        dvt0    = 1               dvt1    = 2             
+dvt2    = 0               dvt0w   = 0               dvt1w   = 0               dvt2w   = 0             
+dsub    = 0.1             minv    = 0.05            voffl   = 0               dvtp0   = 1e-010        
+dvtp1   = 0.1             lpe0    = 0               lpeb    = 0               xj      = 1.4e-008      
+ngate   = 1e+023          ndep    = 3.24e+018       nsd     = 2e+020          phin    = 0             
+cdsc    = 0               cdscb   = 0               cdscd   = 0               cit     = 0             
+voff    = -0.13           nfactor = 1.6             eta0    = 0.0125          etab    = 0             
+vfb     = -0.55           u0      = 0.049           ua      = 6e-010          ub      = 1.2e-018      
+uc      = 0               vsat    = 130000          a0      = 1               ags     = 0             
+a1      = 0               a2      = 1               b0      = 0               b1      = 0             
+keta    = 0.04            dwg     = 0               dwb     = 0               pclm    = 0.02          
+pdiblc1 = 0.001           pdiblc2 = 0.001           pdiblcb = -0.005          drout   = 0.5           
+pvag    = 1e-020          delta   = 0.01            pscbe1  = 8.14e+008       pscbe2  = 1e-007        
+fprout  = 0.2             pdits   = 0.08            pditsd  = 0.23            pditsl  = 2300000       
+rsh     = 5               rdsw    = 210             rsw     = 80              rdw     = 80            
+rdswmin = 0               rdwmin  = 0               rswmin  = 0               prwg    = 0             
+prwb    = 0               wr      = 1               alpha0  = 0.074           alpha1  = 0.005         
+beta0   = 30              agidl   = 0.0002          bgidl   = 2.1e+009        cgidl   = 0.0002        
+egidl   = 0.8             aigbacc = 0.012           bigbacc = 0.0028          cigbacc = 0.002         
+nigbacc = 1               aigbinv = 0.014           bigbinv = 0.004           cigbinv = 0.004         
+eigbinv = 1.1             nigbinv = 3               aigc    = 0.015211        bigc    = 0.0027432     
+cigc    = 0.002           aigsd   = 0.015211        bigsd   = 0.0027432       cigsd   = 0.002         
+nigc    = 1               poxedge = 1               pigcd   = 1               ntox    = 1             
+xrcrg1  = 12              xrcrg2  = 5             

+cgso    = 1.1e-010        cgdo    = 1.1e-010        cgbo    = 2.56e-011       cgdl    = 2.653e-010    
+cgsl    = 2.653e-010      ckappas = 0.03            ckappad = 0.03            acde    = 1             
+moin    = 15              noff    = 0.9             voffcv  = 0.02          

+kt1     = -0.11           kt1l    = 0               kt2     = 0.022           ute     = -1.5          
+ua1     = 4.31e-009       ub1     = 7.61e-018       uc1     = -5.6e-011       prt     = 0             
+at      = 33000         

+fnoimod = 1               tnoimod = 0             

+jss     = 0.0001          jsws    = 1e-011          jswgs   = 1e-010          njs     = 1             
+ijthsfwd= 0.01            ijthsrev= 0.001           bvs     = 10              xjbvs   = 1             
+jsd     = 0.0001          jswd    = 1e-011          jswgd   = 1e-010          njd     = 1             
+ijthdfwd= 0.01            ijthdrev= 0.001           bvd     = 10              xjbvd   = 1             
+pbs     = 1               cjs     = 0.0005          mjs     = 0.5             pbsws   = 1             
+cjsws   = 5e-010          mjsws   = 0.33            pbswgs  = 1               cjswgs  = 3e-010        
+mjswgs  = 0.33            pbd     = 1               cjd     = 0.0005          mjd     = 0.5           
+pbswd   = 1               cjswd   = 5e-010          mjswd   = 0.33            pbswgd  = 1             
+cjswgd  = 5e-010          mjswgd  = 0.33            tpb     = 0.005           tcj     = 0.001         
+tpbsw   = 0.005           tcjsw   = 0.001           tpbswg  = 0.005           tcjswg  = 0.001         
+xtis    = 3               xtid    = 3             

+dmcg    = 0               dmci    = 0               dmdg    = 0               dmcgt   = 0             
+dwj     = 0               xgw     = 0               xgl     = 0             

+rshg    = 0.4             gbmin   = 1e-010          rbpb    = 5               rbpd    = 15            
+rbps    = 15              rbdb    = 15              rbsb    = 15              ngcon   = 1             


.model  pmos  pmos  level = 54


+version = 4.0             binunit = 1               paramchk= 1               mobmod  = 0             
+capmod  = 2               igcmod  = 1               igbmod  = 1               geomod  = 1             
+diomod  = 1               rdsmod  = 0               rbodymod= 1               rgatemod= 1             
+permod  = 1               acnqsmod= 0               trnqsmod= 0             

+tnom    = 27              toxe    = 1.82e-009       toxp    = 1.5e-009        toxm    = 1.82e-009     
+dtox    = 3.2e-010        epsrox  = 3.9             wint    = 5e-009          lint    = 0             
+ll      = 0               wl      = 0               lln     = 1               wln     = 1             
+lw      = 0               ww      = 0               lwn     = 1               wwn     = 1             
+lwl     = 0               wwl     = 0               xpart   = 0               toxref  = 1.82e-009     

+vth0    = -0.587          k1      = 0.4             k2      = -0.01           k3      = 0             
+k3b     = 0               w0      = 2.5e-006        dvt0    = 1               dvt1    = 2             
+dvt2    = -0.032          dvt0w   = 0               dvt1w   = 0               dvt2w   = 0             
+dsub    = 0.1             minv    = 0.05            voffl   = 0               dvtp0   = 1e-011        
+dvtp1   = 0.05            lpe0    = 0               lpeb    = 0               xj      = 1.4e-008      
+ngate   = 1e+023          ndep    = 2.44e+018       nsd     = 2e+020          phin    = 0             
+cdsc    = 0               cdscb   = 0               cdscd   = 0               cit     = 0             
+voff    = -0.126          nfactor = 1.8             eta0    = 0.0125          etab    = 0             
+vfb     = 0.55            u0      = 0.021           ua      = 2e-009          ub      = 5e-019        
+uc      = 0               vsat    = 90000           a0      = 1               ags     = 1e-020        
+a1      = 0               a2      = 1               b0      = 0               b1      = 0             
+keta    = -0.047          dwg     = 0               dwb     = 0               pclm    = 0.12          
+pdiblc1 = 0.001           pdiblc2 = 0.001           pdiblcb = 3.4e-008        drout   = 0.56          
+pvag    = 1e-020          delta   = 0.01            pscbe1  = 8.14e+008       pscbe2  = 9.58e-007     
+fprout  = 0.2             pdits   = 0.08            pditsd  = 0.23            pditsl  = 2300000       
+rsh     = 5               rdsw    = 250             rsw     = 75              rdw     = 75            
+rdswmin = 0               rdwmin  = 0               rswmin  = 0               prwg    = 0             
+prwb    = 0               wr      = 1               alpha0  = 0.074           alpha1  = 0.005         
+beta0   = 30              agidl   = 0.0002          bgidl   = 2.1e+009        cgidl   = 0.0002        
+egidl   = 0.8             aigbacc = 0.012           bigbacc = 0.0028          cigbacc = 0.002         
+nigbacc = 1               aigbinv = 0.014           bigbinv = 0.004           cigbinv = 0.004         
+eigbinv = 1.1             nigbinv = 3               aigc    = 0.0097          bigc    = 0.00125       
+cigc    = 0.0008          aigsd   = 0.0097          bigsd   = 0.00125         cigsd   = 0.0008        
+nigc    = 1               poxedge = 1               pigcd   = 1               ntox    = 1             
+xrcrg1  = 12              xrcrg2  = 5             

+cgso    = 1.1e-010        cgdo    = 1.1e-010        cgbo    = 2.56e-011       cgdl    = 2.653e-010    
+cgsl    = 2.653e-010      ckappas = 0.03            ckappad = 0.03            acde    = 1             
+moin    = 15              noff    = 0.9             voffcv  = 0.02          

+kt1     = -0.11           kt1l    = 0               kt2     = 0.022           ute     = -1.5          
+ua1     = 4.31e-009       ub1     = 7.61e-018       uc1     = -5.6e-011       prt     = 0             
+at      = 33000         

+fnoimod = 1               tnoimod = 0             

+jss     = 0.0001          jsws    = 1e-011          jswgs   = 1e-010          njs     = 1             
+ijthsfwd= 0.01            ijthsrev= 0.001           bvs     = 10              xjbvs   = 1             
+jsd     = 0.0001          jswd    = 1e-011          jswgd   = 1e-010          njd     = 1             
+ijthdfwd= 0.01            ijthdrev= 0.001           bvd     = 10              xjbvd   = 1             
+pbs     = 1               cjs     = 0.0005          mjs     = 0.5             pbsws   = 1             
+cjsws   = 5e-010          mjsws   = 0.33            pbswgs  = 1               cjswgs  = 3e-010        
+mjswgs  = 0.33            pbd     = 1               cjd     = 0.0005          mjd     = 0.5           
+pbswd   = 1               cjswd   = 5e-010          mjswd   = 0.33            pbswgd  = 1             
+cjswgd  = 5e-010          mjswgd  = 0.33            tpb     = 0.005           tcj     = 0.001         
+tpbsw   = 0.005           tcjsw   = 0.001           tpbswg  = 0.005           tcjswg  = 0.001         
+xtis    = 3               xtid    = 3             

+dmcg    = 0               dmci    = 0               dmdg    = 0               dmcgt   = 0             
+dwj     = 0               xgw     = 0               xgl     = 0             

+rshg    = 0.4             gbmin   = 1e-010          rbpb    = 5               rbpd    = 15            
+rbps    = 15              rbdb    = 15              rbsb    = 15              ngcon   = 1             



